US05374772
Hydrolysis with sodium hydroxide of 5-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester gave 5-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid, mp 93°-95°.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 5-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C42H60O6
product | 5-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid | C(CCCCCCCCCCCCCCCCC)OC=1C=CC(=C(C(=O)O)C1)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1 | C41H58O6
